US04009208
27. N,N'-Heptamethylenebis(4-cyclohexyloxybenzamide)
m.p. 144°-145° C., 27.3 g., was prepared as in Example 1 using 4-cyclohexyloxybenzoyl chloride (from 42.0 g. of the corresponding acid as in Example 6) in 100 ml. of ethylene dichloride, 11.7 g. of 1,7-heptanediamine, 200 ml. of 10% potassium hydroxide solution, 500 ml. of ethylene dichloride and recrystallization from acetonitrile using decolorizing charcoal.

reactant | 4-cyclohexyloxybenzoyl chloride | C1(CCCCC1)OC1=CC=C(C(=O)Cl)C=C1 | C13H15ClO2
reactant | 1,7-heptanediamine | C(CCCCCCN)N | C7H18N2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | N,N'-Heptamethylenebis(4-cyclohexyloxybenzamide) | C1(CCCCC1)OC1=CC=C(C(=O)NCCCCCCCNC(C2=CC=C(C=C2)OC2CCCCC2)=O)C=C1 | C33H46N2O4
